US07888503B2
A round bottomed flask was charged with 7-bromo-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine (47 mg), methanol (5 mL) and acetic acid (1 mL). The resulting mixture was treated with sodium borohydride in small portions while stirring at room temperature. The addition of sodium borohydride was continued until the starting material was consumed. The reaction was then concentrated to dryness and taken up in a saturated solution of sodium bicarbonate. The aqueous mixture was stirred for 10 minutes then extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered and concentrated to an oil. Silica gel purification provided 7-bromo-5-(2-fluorophenyl)-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine (30 mg) as a colorless oil. H1 NMR (d6-dmso): 7.47 (t, 1H), 7.34 (q, 1H), 7.10-7.25 (m, 3H), 6.88 (d, 1H), 6.40 (s, 1H), 5.66 (d, 1H), 5.04 (br s, 1H), 3.20 (m, 1H), 2.95 (m, 1H), 2.76 (m, 2H), 2.60 (br s, 1H).

reactant | 7-bromo-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine | 47 mg | BrC=1C=CC2=C(C(=NCCN2)C2=C(C=CC=C2)F)C1 | C15H12BrFN2
reactant | methanol | 5 mL | CO | CH4O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 7-bromo-5-(2-fluorophenyl)-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine | 30 mg | BrC=1C=CC2=C(C(NCCN2)C2=C(C=CC=C2)F)C1 | C15H14BrFN2
